US07851634B2
5-Amino-4-hydroxy-2-isopropyl-7-[3-(3-methoxy-propyl)-1-methyl-1H-indol-5-ylmethyl]-8-methyl-nonanoic acid (5-fluoro-pyridin-2-yl)-amide
To the solution of 0.090 g (4-(5-fluoro-pyridin-2-ylcarbamoyl)-2-hydroxy-1-{2-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-3-methyl-butyl}-5-methyl-hexyl)carbamic acid tert-butyl ester in 2.4 ml dichloromethane are added 1.2 ml trifluoroacetic acid at 0° C. The reaction mixture is stirred at 0° C. for 1 hour and then concentrated by evaporation. The title compound is obtained as a beige foam from the residue by means of flash chromatography (SiO2 60 F). Rf=0.35 (200:20:1 dichloromethane-methanol-25% conc. ammonia). Rt=4.58 (gradient I).

reactant | (4-(5-fluoro-pyridin-2-ylcarbamoyl)-2-hydroxy-1-{2-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-3-methyl-butyl}-5-methyl-hexyl)carbamic acid tert-butyl ester | 0.090 g | C(C)(C)(C)OC(NC(C(CC(C(C)C)C(NC1=NC=C(C=C1)F)=O)O)CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)=O | C37H55FN4O5
reactant | trifluoroacetic acid | 1.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.4 ml | ClCCl | CH2Cl2
product | 5-Amino-4-hydroxy-2-isopropyl-7-[3-(3-methoxy-propyl)-1-methyl-1H-indol-5-ylmethyl]-8-methyl-nonanoic acid (5-fluoro-pyridin-2-yl)-amide | FC=1C=CC(=NC1)NC(C(CC(C(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)N)O)C(C)C)=O | C32H47FN4O3
